US08034812B2
Production of 6-(3-{[3-(trifluoromethyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazine-2-carboxylic acid
A mixture of ethyl 6-(3-{[3-(trifluoromethyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazine-2-carboxylate (470 mg, 1.00 mmol), 8N aqueous sodium hydroxide solution (2.0 mL) and methanol (6.0 mL) was stirred at room temperature for 4 hr. 6N Hydrochloric acid (2.7 mL) and water (25 mL) were added to the mixture, and the mixture was extracted with ethyl acetate (50 mL). The extract was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (425 mg, 96%) as a white powder.

reactant | ethyl 6-(3-{[3-(trifluoromethyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazine-2-carboxylate | 1.00 mmol, 470 mg | FC(C=1C=C(C(=O)NC=2C=C(OC=3C=CC=4N(N3)C=C(N4)C(=O)OCC)C=CC2)C=CC1)(F)F | C23H17F3N4O4
reactant | sodium hydroxide | 8N, 2.0 mL | [OH-].[Na+]
reactant | methanol | 6.0 mL | CO | CH4O
reactant | Hydrochloric acid | 6N, 2.7 mL | Cl | ClH
solvent | water | 25 mL | O | H2O
product | 6-(3-{[3-(trifluoromethyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazine-2-carboxylic acid | 425 mg, 96% | FC(C=1C=C(C(=O)NC=2C=C(OC=3C=CC=4N(N3)C=C(N4)C(=O)O)C=CC2)C=CC1)(F)F | C21H13F3N4O4
